US04866091
A mixture of 3'-chloro-4'-nitroacetophenone (3.0 g), phenol (2.5 g), and potassium carbonate (4.0 g) in xylene (70 ml) was refluxed for 8 hours. The insoluble was filtered off and the filtrate was concentrated under reduced pressure. The oily residue (2.7 g) was subjected to column chromatography on silica gel (70 g) eluting with toluene. The fractions containing the desired compound were combined and concentrated under reduced pressure to give crystals of 4'-nitro-3'-phenoxyacetophenone (1.7 g).

reactant | 3'-chloro-4'-nitroacetophenone | 3.0 g | ClC=1C=C(C=CC1[N+](=O)[O-])C(C)=O | C8H6ClNO3
reactant | phenol | 2.5 g | C1(=CC=CC=C1)O | C6H6O
reactant | potassium carbonate | 4.0 g | C([O-])([O-])=O.[K+].[K+]
solvent | xylene | 70 ml | C=1(C(=CC=CC1)C)C | C8H10
product | 4'-nitro-3'-phenoxyacetophenone | 1.7 g | [N+](=O)([O-])C1=C(C=C(C=C1)C(C)=O)OC1=CC=CC=C1 | C14H11NO4
